US09340546B2
A solution of 1-[3-(difluoromethyl)-5-(2,5-dimethylpyrrol-1-yl)-4-pyridyl]-4-methyl-piperazine (80 mg, 0.2497 mmol) and NH2OH (165.0 mg, 4.994 mmol) in a mixture of triethylamine (101.1 mg, 139.3 μL, 0.9988 mmol), ethanol (1 mL) and H2O (0.25 mL) was heated at reflux for 20 h. After cooling to RT the reaction was quenched by loading directly onto an SCX-2 cartridge and eluted with MeOH followed by NH3/MeOH. The basic fraction was concentrated in vacuo yielding 5-(difluoromethyl)-4-(4-methylpiperazin-1-yl)pyridin-3-amine that was used in next step without further purification. MS (ES+) 243.1.

reactant | 1-[3-(difluoromethyl)-5-(2,5-dimethylpyrrol-1-yl)-4-pyridyl]-4-methyl-piperazine | 0.2497 mmol, 80 mg | FC(C=1C=NC=C(C1N1CCN(CC1)C)N1C(=CC=C1C)C)F | C17H22F2N4
reactant | NH2OH | 4.994 mmol, 165.0 mg | NO | H3NO
reactant | triethylamine | 0.9988 mmol, 139.3 μL, 101.1 mg | C(C)N(CC)CC | C6H15N
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | H2O | 0.25 mL | O | H2O
product | 5-(difluoromethyl)-4-(4-methylpiperazin-1-yl)pyridin-3-amine | FC(C=1C(=C(C=NC1)N)N1CCN(CC1)C)F | C11H16F2N4
